US08975400B2
2-((5,6-difluoropyridin-3-yl)oxy)-5-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)benzonitrile
Prepared in a manner similar to that described for E1 using 2-((5,6-difluoropyridin-3-yl)oxy)-5-(hydroxymethyl)benzonitrile (131 mg, 0.5 mmol) in THF (4 mL), NaH (30.0 mg, 0.750 mmol) and 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one (93 mg, 0.500 mmol).

reactant | 2-((5,6-difluoropyridin-3-yl)oxy)-5-(hydroxymethyl)benzonitrile | 0.5 mmol, 131 mg | FC=1C=C(C=NC1F)OC1=C(C#N)C=C(C=C1)CO | C13H8F2N2O2
reactant | NaH | 0.750 mmol, 30.0 mg | [H-].[Na+]
reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | 0.500 mmol, 93 mg | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-((5,6-difluoropyridin-3-yl)oxy)-5-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)benzonitrile | FC=1C=C(C=NC1F)OC1=C(C#N)C=C(C=C1)COC=1C=C2N(C(N1)=O)CCN2C | C20H15F2N5O3
